US05051431
A solution of 2.00 g (8.84 mmol) of 5-(4-hydroxyphenyl)-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile in 15 ml of DMF is added dropwise to a suspension of 707 mg (17.7 mmol) of 60% sodium hydride-mineral oil in DMF (5 ml). When hydrogen evolution ceases, the mixture is warmed to 60° C. and a solution of 2.37 g (8.84 mmol) of N-(3-bromopropyl)phthalimide in 5 ml of DMF is added dropwise. After 1 hr at 60° C., the temperature of the mixture is raised to 80° C. for an additional hr of heating. After cooling, the DMF is removed under vacuum. The residue is triturated with water and EtOAc to give a yellow solid that is collected by suction filtration. Thissolid is dried at 80° C. under vacuum to give 1.885 g of 5-(4-phthalimidopropyloxyphenyl)-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile as a yellow solid. 1H-NMR (d6 -DMSO): δ 2.07 (t,2H); 2.23 (s,3H); 3.78 (t,2H); 4.05 (t,2H); 6.83 (d, 2H); 7.20 (d,2H): 7.80 (m, 4H); 8.00 (s, 1H).

reactant | 5-(4-hydroxyphenyl)-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | 8.84 mmol, 2.00 g | OC1=CC=C(C=C1)C=1C=C(C(NC1C)=O)C#N | C13H10N2O2
reactant | sodium hydride | 17.7 mmol, 707 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | N-(3-bromopropyl)phthalimide | 8.84 mmol, 2.37 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-(4-phthalimidopropyloxyphenyl)-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | 1.885 g | C1(C=2C(C(N1CCCOC1=CC=C(C=C1)C=1C=C(C(NC1C)=O)C#N)=O)=CC=CC2)=O | C24H19N3O4
